US07750038B2
5-Bromoindoline (0.59 g, 3 mmol) was dissolved in isopropylsulfonyl chloride (1.08 g, 7.5 mmol) and heated to 100° C. for 3 hours. The mixture was cooled and treated with methanol (10 mL) then diluted with ethyl acetate. The mixture was washed with NaHCO3, water, brine, dried over anhydrous magnesium sulfate, and concentrated. Purification via Isco chromatography (the Redisep® column, silica, gradient 5%-30% ethyl acetate in hexane) afforded 5-bromo-1-(isopropylsulfonyl)indoline (0.3 g) as a white solid. MS (EI) m/z 303.7; HPLC purity 95.8% at 210-370 nm, 9.6 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammonium formate buffer pH=3.5 acetonitrile+MeOH) for 10 minutes, hold 4 minutes.

reactant | 5-Bromoindoline | 3 mmol, 0.59 g | BrC=1C=C2CCNC2=CC1 | C8H8BrN
reactant | isopropylsulfonyl chloride | 7.5 mmol, 1.08 g | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-1-(isopropylsulfonyl)indoline | 0.3 g | BrC=1C=C2CCN(C2=CC1)S(=O)(=O)C(C)C | C11H14BrNO2S
